US04419524
100 kg. of 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropane-1-carboxylic acid ethyl ester (prepared by the so called "Farkas process",/Coll.Czech.Commun.242230 (1959)), 100 lit. of methanol of technical grade and 90 kg of a 20% by weight aqueous sodium hydroxide solution are admixed with stirring and the mixture is boiled for 2 hours. 100 lit. of water are then added and 200 ml. of aqueous methanol are distilled off by a suitable condenser. The distillate contains also the by-products derived from the ester synthesis. The mixture is then cooled to 25° C. and 300 lit. of gasoline are pumped into it followed by a slow addition of 50 lit. of a concentrated hydrochloric acid solution. After stirring for half an hour the lower phase is separated carefully. The petrol solution remained in the equipment is washed with water, dried, decoloured and 200 lit. of petrol are distilled off, whereupon carboxylic acid is crystallized with stirring. The product is filtered off and dried (90 kg.). From the mother liquor a second crop (30 kg.) is obtained. The mother liquor of the second crop is stored till further use. Altogether 120 kg. of 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropane-1-carboxylic acid are obtained. Yield: 80 to 82% when the starting material contained 90% of pure ester.

reactant | 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropane-1-carboxylic acid ethyl ester | C(C)OC(=O)C1C(C1C=C(Cl)Cl)(C)C | C10H14Cl2O2
reactant | methanol | 100 lit. | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 50 lit. | Cl | ClH
solvent | water | 100 lit. | O | H2O
product | 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropane-1-carboxylic acid | Yield: 80 to 82% | CC1(C(C1C=C(Cl)Cl)C(=O)O)C | C8H10Cl2O2
